US07994336B2
a) Synthesis of (2S)-carbamoyl-azetidine-1-carboxylic acid tert-butyl ester
A mixture of 1-Boc-L-azetidine-2-carboxylic acid (10 g), conc. H2SO4 (1 mL) in dry MeOH (200 mL) was stirred at RT for 2 h. The reaction mixture was then concentrated in vacuo, the residue was diluted with EA, basified with sat. NaHCO3 solution. The organic extract was washed with water, dried (MgSO4), filtered and concentrated to yield the crude methyl ester as a yellow oil (11 g, 102%). This crude ester was dissolved in dry MeOH (200 mL) and treated with 7M ammonia solution in MeOH (100 mL). The resulting white suspension was stirred at RT for 72 h and filtered off. The filtrate was concentrated in vacuo to give the title compound as a white solid (8.5 g, 92%).

reactant | 1-Boc-L-azetidine-2-carboxylic acid | 10 g | CC(C)(C)OC(=O)N1CC[C@H]1C(=O)O | C9H15NO4
reactant | H2SO4 | 1 mL | OS(=O)(=O)O | H2O4S
reactant | ammonia | 7M | N | H3N
solvent | MeOH | 200 mL | CO | CH4O
solvent | MeOH | 200 mL | CO | CH4O
solvent | MeOH | 100 mL | CO | CH4O
product | (2S)-carbamoyl-azetidine-1-carboxylic acid tert-butyl ester | 8.5 g, 92% | C(C)(C)(C)OC(=O)N1[C@@H](CC1)C(N)=O | C9H16N2O3
